US07504412B2
N-(2,3-dimethylimidazo[1,2-a]pyridin-6-yl)-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxamide
Conducting the operations similar to those of Example 1 using 2,3-dimethyl-6-nitroimidazo[1,2-a]pyridine and 4′-(trifluoromethyl)-[1,1′-biphenyl]-4-carboxylic acid, the title compound was obtained as white solid.

reactant | 2,3-dimethyl-6-nitroimidazo[1,2-a]pyridine | CC=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C9H9N3O2
reactant | 4′-(trifluoromethyl)-[1,1′-biphenyl]-4-carboxylic acid | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)(F)F | C14H9F3O2
product | N-(2,3-dimethylimidazo[1,2-a]pyridin-6-yl)-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxamide | CC=1N=C2N(C=C(C=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C1C | C23H18F3N3O
